US04673692
3,5-di-t-butyl-4-hydroxybenzophenone oxime and butyryl chloride were treated in the same way as in Example 3 to give 3,5-di-t-butyl-4-hydroxybenzophenone O-butyryloxime.

reactant | 3,5-di-t-butyl-4-hydroxybenzophenone oxime | C(C)(C)(C)C=1C=C(C(C2=CC=CC=C2)=NO)C=C(C1O)C(C)(C)C | C21H27NO2
reactant | butyryl chloride | C(CCC)(=O)Cl | C4H7ClO
product | 3,5-di-t-butyl-4-hydroxybenzophenone O-butyryloxime | C(CCC)(=O)ON=C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C1=CC=CC=C1 | C25H33NO3
